US07265120B2
Under nitrogen atmosphere, 6-[5-amino-3-phenyl-6-(1H-pyrazol-4-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (120 mg) was added to a suspension of NaH (60% in oil) (14.2 mg) and the mixture was stirred at 25-30° C. for 30 minutes. The mixture was cooled in an ice bath and iodomethane (0.1 ml) was added. The mixture was stirred at the same time for 30 minutes and at 20-30° C. for one hour. After addition of water (3.6 ml), a precipitate was collected by filtration and purified by column chromatography on silica gel (EtOAc only) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-[5-amino-6-(1-methyl-1H-pyrazol-4-yl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (70 mg).

reactant | 6-[5-amino-3-phenyl-6-(1H-pyrazol-4-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 120 mg | NC=1N=C(C(=NC1C=1C=NNC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C20H19N7O
reactant | NaH | 14.2 mg | [H-].[Na+]
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | water | 3.6 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 6-[5-amino-6-(1-methyl-1H-pyrazol-4-yl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 70 mg | NC=1N=C(C(=NC1C=1C=NN(C1)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C21H21N7O
